US05112385
3-(3,5-dichlorophenoxy)-1-isopropyl-3-methoxycarbonyl-1-methylurea (compound No. 96)
In a mixed solvent of 20 ml of tetrahydrofuran and 1.9 ml of pyridine was dissolved 2.15 g (7.76 mmoles) of 3-(3,5-dichlorophenoxy)-1-isopropyl-1-methylurea, and then 10 ml of a tetrahydrofuran solution of 1.47 g (15.5 mmoles) of methyl chloroformate was added. The mixture was stirred at 25° C. for 2 hours. Water (100 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The ethyl acetate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent: ethyl acetate/hexane) to give 1.14 g (yield 44 %) of the desired compound as the yellow crystals

reactant | 3-(3,5-dichlorophenoxy)-1-isopropyl-1-methylurea | 7.76 mmoles, 2.15 g | ClC=1C=C(ONC(N(C)C(C)C)=O)C=C(C1)Cl | C11H14Cl2N2O2
reactant | methyl chloroformate | 15.5 mmoles, 1.47 g | ClC(=O)OC | C2H3ClO2
reactant | Water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.9 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(3,5-dichlorophenoxy)-1-isopropyl-3-methoxycarbonyl-1-methylurea | 1.14 g, yield 44 % | ClC=1C=C(ON(C(N(C)C(C)C)=O)C(=O)OC)C=C(C1)Cl | C13H16Cl2N2O4
